US04962103
(2S,4S)-1-(p-Nitrobenzyloxycarbonyl)-2-hydroxymethyl-4-acetylthiopyrrolidine (78 mg) was dissolved in 1 ml of dry pyridine, and 135 mg of 4-N,N-dimethylaminopyridine and 119 mg of dimethylaminocarbonyl chloride were added successively thereto, followed by stirring at 90° to 100° C. for 20 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed successively with water, dilute hydrochloric acid, water, a saturated sodium bicarbonate solution and water, dried over anhydrous sodium sulfate and distilled to obtain (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-dimethylaminocarbonyloxymethyl-4-acetylthiopyrrolidine.

reactant | (2S,4S)-1-(p-Nitrobenzyloxycarbonyl)-2-hydroxymethyl-4-acetylthiopyrrolidine | 78 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)CO)C=C1 | C15H18N2O6S
reactant | dimethylaminocarbonyl chloride | 119 mg | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-dimethylaminocarbonyloxymethyl-4-acetylthiopyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)COC(=O)N(C)C)C=C1 | C18H23N3O7S
